US08242280B2
To a solution of tert-Butoxycarbonylamino-{3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-acetic acid (100 mg, 0.16 mmol), dimethylamine (2 N solution in THF, 0.16 mL, 0.32 mmol), diisopropylethylamine (24 mg, 0.19 mmol) in DMF (1 mL) was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′,-tetramethyluromiumhexafluorophosphate (73 mg, 0.19 mmol). The resulting solution was stirred at room temperature for 1 hour. Methanol (1 mL) and potassium hydroxide (50% in water, 0.2 mL) were added and the resulting mixture was stirred for 30 minutes. The mixture was concentrated in GeneVac at 60° C. for 2 hours. To the residue was added trifluoroacetic acid (1 mL) and the resulting mixture was sonicated till the residue is completely dissolved. The solution was concentrated and the residue was taken up in DMSO (2 mL) and purified with reverse phase preparative LCMS to afford 2-Amino-2-{3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide as a pale yellow solid (23 mg, 35%). MS: m/z 401 (M+H+). 1H NMR (500 MHz, DMSO-d6) δ 2.86 (s, 3H), 2.93 (s, 3H), 3.84 (s, 3H), 5.14 (s, 1H), 7.05 (t, 1H), 7.15 (d, 1H), 7.31 (dt, 1H), 7.35 (d, 1H), 7.48 (t, 1H), 7.58 (dd, 1H), 7.68 (d, 1H), 7.73 (s, 1H), 7.74 (s, 1H), 8.16 (d, 1H), 8.54 (d, 1H), 11.95 (s, 1H).

reactant | tert-Butoxycarbonylamino-{3-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-acetic acid | 0.16 mmol, 100 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC(=CC=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C34H33N3O7S
reactant | dimethylamine | 0.32 mmol, 2 N, 0.16 mL | CNC | C2H7N
reactant | diisopropylethylamine | 0.19 mmol, 24 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium hydroxide | 0.2 mL | [OH-].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | Methanol | 1 mL | CO | CH4O
product | 2-Amino-2-{3-[3-(2-methoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-phenyl}-N,N-dimethyl-acetamide | 23 mg, 35% | NC(C(=O)N(C)C)C1=CC(=CC=C1)C=1C=C2C(=NC1)NC=C2C2=C(C=CC=C2)OC | C24H24N4O2
